US07825244B2
c. 6-Iodo-4-piperidin-4-yl-quinazoline
A mixture of 4-(6-iodo-quinazolin-4-yl)-piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-methyl ester (14.21 g, 28.6 mmol), prepared as described in the preceding step, LiCl (2.38 g, 56.1 mmol), water (1.54 mL, 85.8 mmol), and DMSO (14 mL) was stirred at 150° C. under air for 3 h in a 500 mL flask fitted with a lightly capped Liebig condenser to minimize loss of reagent water while allowing gas escape. The reaction was then allowed to cool to rt, 2 M HCl (aq) (100 mL) was added, and the mixture was stirred at 100° C. for 10 min (Caution: Gas evolution). The reaction was cooled on an ice bath, 2.5 M NaOH (100 mL) was added, and the reaction was extracted with DCM (1×250 mL and 1×50 mL). The organic layers were combined, dried (Na2SO4), and concentrated to provide a 60:40 mixture of the title compound and its methyl ester, contaminated with DMSO, as a dark green oil (10.5 g). This material was resubjected to Krapchow decarboxylation conditions using LiCl (2.41 g, 63 mmol), water (1.54 mL, 85.8 mmol), and DMSO (4 mL) (˜7 mL total DMSO) for an additional 5 h at 150° C. After a total of 8 h at 150° C., the reaction was allowed to cool to rt, and 3 M HCl (100 mL) was added (gas evolution) and the reaction stirred at 100° C. for 15 min. The reaction was then stirred at 0° C. while 2.5 M NaOH (120 mL) was added slowly over ˜30 s to pH >12 (paper), and the cream-colored opaque slurry was extracted with 9:1 DCM/MeOH (4×100 mL). The combined organic layers were dried (Na2SO4) and concentrated under reduced pressure to provide the title compound as a clear dark green oil contaminated with DMSO and an aromatic impurity (5.97 g). 1H-NMR (300 MHz, CDCl3) δ 9.27 (s, 1H), 8.52 (d, 1H), 8.12 (dd, 1H), 7.78 (d, 1H), 3.68-3.55 (m, 1H), 3.36-3.27 (m, 2H), 2.92 (td, 2H), 2.1-1.8 (m, 5H). LC/MS (ESI): calcd mass 339.0, found 340.1 (MH)+.

reactant | 4-(6-iodo-quinazolin-4-yl)-piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-methyl ester | 28.6 mmol, 14.21 g | COC(=O)C1(CCN(CC1)C(=O)OC(C)(C)C)C1=NC=NC2=CC=C(C=C12)I | C20H24IN3O4
reactant | LiCl | 56.1 mmol, 2.38 g | [Li+].[Cl-]
reactant | HCl | 2 M, 100 mL | Cl | ClH
reactant | NaOH | 2.5 M, 100 mL | [OH-].[Na+]
solvent | water | O | H2O
solvent | DMSO | 14 mL | CS(=O)C | C2H6OS
solvent | water | 85.8 mmol, 1.54 mL | O | H2O
product | 6-Iodo-4-piperidin-4-yl-quinazoline | IC=1C=C2C(=NC=NC2=CC1)C1CCNCC1 | C13H14IN3
